** Name: SimpleTwoStageOpAmp_SimpleOpAmp50_2

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp50_2 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=10e-6 W=23e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=23e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=123e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=21e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=79e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=518e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=2e-6 W=123e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=10e-6 W=490e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=10e-6 W=290e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=90e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=90e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=10e-6 W=284e-6
mNormalTransistorNmos13 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=1e-6 W=421e-6
mNormalTransistorPmos14 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=503e-6
mNormalTransistorPmos15 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=302e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=73e-6
mNormalTransistorPmos17 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=302e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=116e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=116e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 10.5e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp50_2

** Expected Performance Values: 
** Gain: 102 dB
** Power consumption: 8.17901 mW
** Area: 14917 (mu_m)^2
** Transit frequency: 11.8041 MHz
** Transit frequency with error factor: 11.7979 MHz
** Slew rate: 11.475 V/mu_s
** Phase margin: 65.3172°
** CMRR: 109 dB
** VoutMax: 4.70001 V
** VoutMin: 0.340001 V
** VcmMax: 5.11001 V
** VcmMin: 0.790001 V


** Expected Currents: 
** NormalTransistorNmos: 213.221 muA
** NormalTransistorNmos: 126.633 muA
** NormalTransistorPmos: -115.011 muA
** NormalTransistorPmos: -121.574 muA
** NormalTransistorPmos: -182.36 muA
** NormalTransistorPmos: -121.576 muA
** NormalTransistorPmos: -182.364 muA
** DiodeTransistorNmos: 121.577 muA
** NormalTransistorNmos: 121.577 muA
** NormalTransistorNmos: 121.576 muA
** NormalTransistorNmos: 60.7871 muA
** NormalTransistorNmos: 60.7871 muA
** NormalTransistorNmos: 806.287 muA
** NormalTransistorNmos: 806.286 muA
** NormalTransistorPmos: -806.286 muA
** DiodeTransistorNmos: 115.012 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -213.22 muA
** DiodeTransistorPmos: -126.632 muA


** Expected Voltages: 
** ibias: 0.631001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** outVoltageBiasXXnXX1: 0.747001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.13801  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.558001  V
** sourceGCC1: 4.40001  V
** sourceGCC2: 4.40001  V
** sourceTransconductance: 1.94001  V
** innerTransconductance: 0.150001  V


.END