** Name: SimpleTwoStageOpAmp_SimpleOpAmp50_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp50_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=8e-6 W=74e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=6e-6 W=85e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=27e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=576e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 sourceNmos sourceNmos nmos4 L=8e-6 W=74e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=8e-6
mNormalTransistorNmos9 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=8e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=14e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=585e-6
mNormalTransistorPmos12 out outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=499e-6
mNormalTransistorPmos13 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=6e-6 W=391e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=315e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=116e-6
mNormalTransistorPmos16 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=6e-6 W=391e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=248e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=248e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 5.40001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp50_8

** Expected Performance Values: 
** Gain: 76 dB
** Power consumption: 14.4941 mW
** Area: 14991 (mu_m)^2
** Transit frequency: 3.14201 MHz
** Transit frequency with error factor: 3.13964 MHz
** Slew rate: 11.1403 V/mu_s
** Phase margin: 65.3172°
** CMRR: 93 dB
** VoutMax: 4.25 V
** VoutMin: 0.550001 V
** VcmMax: 5.05001 V
** VcmMin: 1.20001 V


** Expected Currents: 
** NormalTransistorPmos: -117.416 muA
** NormalTransistorPmos: -43.1889 muA
** NormalTransistorPmos: -61.6289 muA
** NormalTransistorPmos: -92.4429 muA
** NormalTransistorPmos: -61.6289 muA
** NormalTransistorPmos: -92.4429 muA
** DiodeTransistorNmos: 61.6281 muA
** NormalTransistorNmos: 61.6281 muA
** NormalTransistorNmos: 61.6291 muA
** NormalTransistorNmos: 30.8151 muA
** NormalTransistorNmos: 30.8151 muA
** NormalTransistorNmos: 2533.28 muA
** NormalTransistorNmos: 2533.28 muA
** NormalTransistorPmos: -2533.27 muA
** DiodeTransistorNmos: 117.417 muA
** DiodeTransistorNmos: 43.1881 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.32201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.08401  V
** outVoltageBiasXXnXX1: 1.15301  V
** outVoltageBiasXXnXX2: 0.632001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** out1: 0.685001  V
** sourceGCC1: 4.11501  V
** sourceGCC2: 4.11501  V
** sourceTransconductance: 1.52801  V
** innerStageBias: 0.427001  V


.END