** Name: SimpleTwoStageOpAmp_SimpleOpAmp51_8

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp51_8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=17e-6
mDiodeTransistorNmos3 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=4e-6 W=86e-6
mDiodeTransistorPmos4 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=4e-6 W=41e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=23e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=2e-6 W=598e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=9e-6 W=218e-6
mNormalTransistorNmos8 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=4e-6 W=86e-6
mNormalTransistorNmos9 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=30e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=30e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mNormalTransistorNmos12 SecondStageYinnerStageBias outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=532e-6
mNormalTransistorPmos13 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=243e-6
mNormalTransistorPmos14 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=4e-6 W=158e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=267e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=179e-6
mNormalTransistorPmos17 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=4e-6 W=158e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=175e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=175e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 7.10001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp51_8

** Expected Performance Values: 
** Gain: 120 dB
** Power consumption: 14.1941 mW
** Area: 9603 (mu_m)^2
** Transit frequency: 5.66401 MHz
** Transit frequency with error factor: 5.66435 MHz
** Slew rate: 7.17301 V/mu_s
** Phase margin: 65.3172°
** CMRR: 141 dB
** VoutMax: 4.25 V
** VoutMin: 0.550001 V
** VcmMax: 5.09001 V
** VcmMin: 0.840001 V


** Expected Currents: 
** NormalTransistorPmos: -118.039 muA
** NormalTransistorPmos: -78.6859 muA
** NormalTransistorPmos: -51.5779 muA
** NormalTransistorPmos: -77.3669 muA
** NormalTransistorPmos: -51.5789 muA
** NormalTransistorPmos: -77.3669 muA
** NormalTransistorNmos: 51.5771 muA
** NormalTransistorNmos: 51.5781 muA
** DiodeTransistorNmos: 51.5771 muA
** NormalTransistorNmos: 51.5771 muA
** NormalTransistorNmos: 25.7891 muA
** NormalTransistorNmos: 25.7891 muA
** NormalTransistorNmos: 2467.28 muA
** NormalTransistorNmos: 2467.28 muA
** NormalTransistorPmos: -2467.27 muA
** DiodeTransistorNmos: 118.04 muA
** DiodeTransistorNmos: 78.6851 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.32501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outSourceVoltageBiasXXpXX1: 4.12301  V
** outVoltageBiasXXnXX1: 1.15101  V
** outVoltageBiasXXnXX2: 0.640001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.573001  V
** out1: 1.13601  V
** sourceGCC1: 4.15801  V
** sourceGCC2: 4.15801  V
** sourceTransconductance: 1.89301  V
** innerStageBias: 0.435001  V


.END