** Name: SimpleTwoStageOpAmp_SimpleOpAmp51_9

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp51_9 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=5e-6 W=96e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=339e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX2 outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=167e-6
mDiodeTransistorNmos4 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=7e-6 W=17e-6
mDiodeTransistorPmos5 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=10e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=24e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 nmos4 L=3e-6 W=24e-6
mNormalTransistorNmos8 out outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=5e-6 W=339e-6
mNormalTransistorNmos9 FirstStageYout1 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=7e-6 W=17e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=7e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=7e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=5e-6 W=29e-6
mNormalTransistorNmos13 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=96e-6
mNormalTransistorPmos14 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=24e-6
mNormalTransistorPmos15 out outFirstStage sourcePmos sourcePmos pmos4 L=7e-6 W=337e-6
mNormalTransistorPmos16 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=327e-6
mNormalTransistorPmos17 outVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=302e-6
mNormalTransistorPmos18 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=24e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=76e-6
mNormalTransistorPmos20 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=76e-6
Capacitor1 outFirstStage out 2.70001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp51_9

** Expected Performance Values: 
** Gain: 115 dB
** Power consumption: 4.14601 mW
** Area: 9795 (mu_m)^2
** Transit frequency: 4.19301 MHz
** Transit frequency with error factor: 4.19262 MHz
** Slew rate: 7.93991 V/mu_s
** Phase margin: 65.3172°
** CMRR: 135 dB
** VoutMax: 4.25 V
** VoutMin: 0.980001 V
** VcmMax: 5.19001 V
** VcmMin: 0.920001 V


** Expected Currents: 
** NormalTransistorPmos: -137.117 muA
** NormalTransistorPmos: -125.943 muA
** NormalTransistorPmos: -21.5319 muA
** NormalTransistorPmos: -32.2989 muA
** NormalTransistorPmos: -21.5329 muA
** NormalTransistorPmos: -32.2989 muA
** NormalTransistorNmos: 21.5311 muA
** NormalTransistorNmos: 21.5321 muA
** DiodeTransistorNmos: 21.5311 muA
** NormalTransistorNmos: 21.5331 muA
** NormalTransistorNmos: 10.7671 muA
** NormalTransistorNmos: 10.7671 muA
** NormalTransistorNmos: 481.555 muA
** DiodeTransistorNmos: 481.554 muA
** NormalTransistorPmos: -481.554 muA
** DiodeTransistorNmos: 137.118 muA
** NormalTransistorNmos: 137.117 muA
** DiodeTransistorNmos: 125.944 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.32201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.38801  V
** outSourceVoltageBiasXXnXX1: 0.694001  V
** outSourceVoltageBiasXXpXX1: 4.21901  V
** outVoltageBiasXXnXX2: 0.615001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.728001  V
** out1: 1.31101  V
** sourceGCC1: 4.20201  V
** sourceGCC2: 4.20201  V
** sourceTransconductance: 1.79301  V
** inner: 0.692001  V


.END