** Name: SimpleTwoStageOpAmp_SimpleOpAmp52_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp52_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=5e-6 W=62e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=7e-6 W=18e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 sourceNmos sourceNmos nmos4 L=10e-6 W=170e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=3e-6 W=39e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=290e-6
mNormalTransistorNmos6 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=10e-6 W=170e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=7e-6 W=240e-6
mNormalTransistorNmos8 outVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=7e-6 W=591e-6
mNormalTransistorNmos9 outFirstStage outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=5e-6 W=41e-6
mNormalTransistorNmos10 out outFirstStage sourceNmos sourceNmos nmos4 L=5e-6 W=138e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=22e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=22e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias sourceNmos sourceNmos nmos4 L=7e-6 W=62e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=302e-6
mNormalTransistorPmos15 outFirstStage inputVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=3e-6 W=216e-6
mNormalTransistorPmos16 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=588e-6
mNormalTransistorPmos17 FirstStageYout1 inputVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=3e-6 W=216e-6
mNormalTransistorPmos18 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=45e-6
mNormalTransistorPmos19 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=45e-6
Capacitor1 outFirstStage out 4.30001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp52_1

** Expected Performance Values: 
** Gain: 119 dB
** Power consumption: 7.80701 mW
** Area: 14105 (mu_m)^2
** Transit frequency: 4.11501 MHz
** Transit frequency with error factor: 4.11533 MHz
** Slew rate: 7.62633 V/mu_s
** Phase margin: 65.3172°
** CMRR: 142 dB
** VoutMax: 4.75 V
** VoutMin: 0.530001 V
** VcmMax: 5.16001 V
** VcmMin: 0.920001 V


** Expected Currents: 
** NormalTransistorNmos: 131.994 muA
** NormalTransistorNmos: 324.553 muA
** NormalTransistorPmos: -337.982 muA
** NormalTransistorPmos: -32.3799 muA
** NormalTransistorPmos: -49.3789 muA
** NormalTransistorPmos: -32.3789 muA
** NormalTransistorPmos: -49.3779 muA
** DiodeTransistorNmos: 32.3791 muA
** NormalTransistorNmos: 32.3781 muA
** NormalTransistorNmos: 32.3791 muA
** NormalTransistorNmos: 33.9961 muA
** NormalTransistorNmos: 16.9981 muA
** NormalTransistorNmos: 16.9981 muA
** NormalTransistorNmos: 658.059 muA
** NormalTransistorPmos: -658.058 muA
** DiodeTransistorNmos: 337.983 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -131.993 muA
** DiodeTransistorPmos: -324.552 muA


** Expected Voltages: 
** ibias: 0.619001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 3.68601  V
** out: 2.5  V
** outFirstStage: 0.934001  V
** outVoltageBiasXXnXX1: 0.970001  V
** outVoltageBiasXXpXX2: 4.18701  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack2Load2: 0.350001  V
** out1: 0.555001  V
** sourceGCC1: 4.40801  V
** sourceGCC2: 4.40801  V
** sourceTransconductance: 1.79201  V


.END